US07087750B2
1-[(4-Methoxyphenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochoride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 4-methoxyphenylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.07 (br, 1 H), 7.90 (d, J=8 Hz, 2 H), 7.78 (d, J=5 Hz, 1 H), 7.61 (d, J=8 Hz, 1 H), 7.25 (t, J=8 Hz, 1 H), 7.09 (d, J=8 Hz, 2 H), 6.92 (d, J=5 Hz, 1 H), 6.68 (d, J=8 Hz, 1 H), 3.79 (s, 3 H), 3.24 (m, 8 H); MS (ESI+) for m/z 371 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 4-methoxyphenylsulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 1-[(4-Methoxyphenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochoride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C19H21N3O3S.ClH/c1-25-15-5-7-16(8-6-15)26(23,24)22-12-9-17-18(3-2-4-19(17)22)21-13-10-20-11-14-21;/h2-9,12,20H,10-11,13-14H2,1H3;1H
